US04714619
D-Alanine 1-Adamantyl Ester Hydrochloride (15)
N-Benzyloxycarbonyl-D-alanine 1-adamantyl ester (7.35 g, 20.6 mmol) was dissolved in 100 mL MeOH and 14.5 mL 1.25N HCl/ether. The solution was hydrogenated over 1.09 g of 10% Pd/C at 40 psi in a Parr apparatus at room temperature for 40 minutes. The solution was filtered through a Celite pad and the clear filtrate was evaporated to dryness to give a yellow oil, which was crystallized from EtOAc. A light yellow salt (4.2 g) was obtained. The crude product was recrystallized from MeOH-EtOAc; yielded 7.85 g (72%), mp 218°-219° (dec), 250 MHz nmr (CD3OD, ppm) 1.50 (d, 3H, J=7.35 Hz, β--CH3 of Ala), 1.72 (m, 6H, 1-adamantyl aliphatic protons of C's 2, 8 and 9), 2.18 (m, 9H, adamantyl aliphatic protons), 3.95 (q, 1H, J=7.35 Hz, α--H of Ala).

reactant | N-Benzyloxycarbonyl-D-alanine 1-adamantyl ester | 20.6 mmol, 7.35 g | C12(CC3CC(CC(C1)C3)C2)OC([C@H](NC(=O)OCC2=CC=CC=C2)C)=O | C21H27NO4
reactant | HCl ether | 1.25N, 14.5 mL | Cl.CCOCC
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 1.09 g | [Pd] | Pd
product | D-Alanine 1-Adamantyl Ester Hydrochloride | 4.2 g | Cl.C12(CC3CC(CC(C1)C3)C2)OC([C@H](N)C)=O | InChI=1S/C13H21NO2.ClH/c1-8(14)12(15)16-13-5-9-2-10(6-13)4-11(3-9)7-13;/h8-11H,2-7,14H2,1H3;1H/t8-,9?,10?,11?,13?;/m1./s1
